US05316755
To a solution of 2-methanesulfonyloxypentadecane (15.5 g, 48.1 mmol) in dry DMF (200 ml) was added triiodophenol (22.6 g, 47.9 mmol) and potassium carbonate (6.6 g, 47.8 mmol). The reaction flask was immersed in an oil bath which was heated to 85° C. over a period of 0.5 hr. The reaction was stirred under N2 atmosphere for 16 hrs. At the end of this period the reaction was processed as for Example 1 except at 4 times the volumes to provide a brown residue. Flash column chromatography (silica, hexanes) provided 2-(2,4,6-triiodophenoxy)pentadecane (19.2 g, 58.8%) as a white solid. Mp: 56°-58° C. p Title Compound:1H (300 MHz) and 13C (75 MHz) NMR spectra were consistent with the desired structure. Calculated for C21H33I3O: C, 36.97; H, 4.88; I, 55.81. Found: C, 36.89, H, 4.80; I, 55.85.

reactant | 2-methanesulfonyloxypentadecane | 48.1 mmol, 15.5 g | CS(=O)(=O)OC(C)CCCCCCCCCCCCC | C16H34O3S
reactant | triiodophenol | 47.9 mmol, 22.6 g | C=1C(=CC(=C(C1I)O)I)I | C6H3I3O
reactant | potassium carbonate | 47.8 mmol, 6.6 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 200 ml | CN(C)C=O | C3H7NO
product | 2-(2,4,6-triiodophenoxy)pentadecane | 19.2 g, 58.8% | IC1=C(OC(C)CCCCCCCCCCCCC)C(=CC(=C1)I)I | C21H33I3O
